US06670480B2
(R)-Toluene-4-sulfonic Acid 2-(6-chloro-pyridin-3-yl)-2-hydroxy-ethyl Ester
To a cooled 5° C., stirred solution of (R)-1-(6-chloro-pyridin-3-yl)-ethane-1,2-diol (17.8 grams) in anhydrous pyridine (100 mL) was added p-toluenesulfonyl chloride (19.5 grams) in one portion. After 20 minutes, the cooling bath was removed and stirring was continued an additional 12 hours. The reaction solution was concentrated in vacuo, azeotroped with toluene (2 times), diluted ethyl acetate, washed with half-saturated aqueous brine, saturated aqueous brine, dried over sodium sulfate and concentrated in vacuo. The resulting solids were recrystallized from ethyl acetate/hexanes to afford the title compound as colorless crystals, 23.3 grams 1H NMR (400 MHz, CDCl3)=8.29 (s, 1H); 7.72 (d, 2H); 7.64 (d, 1H); 7.32 (d, 2H); 7.28 (d, 1H); 5.00 (dd, 1H); 4.09 (AB pattern, 2H); 2.44 (s, 3H).

reactant | (R)-1-(6-chloro-pyridin-3-yl)-ethane-1,2-diol | 17.8 grams | ClC1=CC=C(C=N1)[C@H](CO)O | C7H8ClNO2
reactant | p-toluenesulfonyl chloride | 19.5 grams | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | (R)-Toluene-4-sulfonic Acid 2-(6-chloro-pyridin-3-yl)-2-hydroxy-ethyl Ester | ClC1=CC=C(C=N1)[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)O | C14H14ClNO4S
